US06512123B2
Ethyl 6-(9H-carbazol-2-yloxy)-hexanoate (270 mg, 0.8 mmol) and 1 N aqueous lithium hydroxide (2 ml, 2 mmol) in 15 ml methanol was heated to reflux for 1h. The solvent was removed, the residue was acidified by 1 ml 2N aqueous hydrochloric acid. The precipitate was collected to give 6-(9H-carbazol-2-yloxy)-hexanoic acid (230 mg, 93%) as a colorless solid. MS (M−H+)296.

reactant | Ethyl 6-(9H-carbazol-2-yloxy)-hexanoate | 0.8 mmol, 270 mg | C1=C(C=CC=2C3=CC=CC=C3NC12)OCCCCCC(=O)OCC | C20H23NO3
reactant | lithium hydroxide | 2 mmol, 1 N, 2 ml | [OH-].[Li+]
solvent | methanol | 15 ml | CO | CH4O
product | 6-(9H-carbazol-2-yloxy)-hexanoic acid | 230 mg, 93% | C1=C(C=CC=2C3=CC=CC=C3NC12)OCCCCCC(=O)O | C18H19NO3
